US07153855B2
In a similar manner as described in Example 1 from ethyl 3-bromobenzoate (50.6 g, 220 mmol) and 6-chloro-2-picoline (24 mL, 220 mmol), 1-(3-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone (59.4 g, 87%) was obtained as a yellow solid. 1H NMR (CDCl3): δ 7.96 (broad s, 1H), 7.71 (d, 1H), 7.35–7.25 (m, 3H), 6.98 (t, 1H), 6.81 (d, 1H), 6.58 (d, 1H), 5.84 (s, 1H); MS m/z 310 (M+1).

reactant | ethyl 3-bromobenzoate | 220 mmol, 50.6 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | 6-chloro-2-picoline | 220 mmol, 24 mL | ClC1=CC=CC(=N1)C | C6H6ClN
product | 1-(3-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone | 59.4 g, 87% | BrC=1C=C(C=CC1)C(CC1=NC(=CC=C1)Cl)=O | C13H9BrClNO
